US06515011B2
To a solution of 2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzylamine from the previous step (0.14 mmol, 37 mg), EDC (0.21 mmol, 40 mg), and Boc-D-Phe-L-Pro-OH (0.14 mmol, 50 mg), in 0.5 mL dimethylformamide, was added HOAT (0.15 mmol, 21 mg). The solution was stirred overnight and purified by preparative reverse phase HPLC using an acetonitrile:water gradient containing 0.1% TFA to give N-(tert-buyloxycarbonyl)-D-phenylalanyl-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide. Mass Spec ES (M+1)=615.2.

reactant | 2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzylamine | C(C)(C)(C)OC(=O)NCC1=C(CN)C=C(C=C1)Cl | C13H19ClN2O2
reactant | EDC | 0.21 mmol, 40 mg
reactant | Boc-D-Phe-L-Pro-OH | 0.14 mmol, 50 mg | N([C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C19H26N2O5
reactant | HOAT | 0.15 mmol, 21 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | N-(tert-buyloxycarbonyl)-D-phenylalanyl-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide | C(C)(C)(C)OC(=O)N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CNC(=O)OC(C)(C)C)CCC1 | C32H43ClN4O6
